US08026244B2
(a) tert-butyl 5-chloro-3-formyl-1H-indole-1-carboxylate
A mixture of 5-chloro-1H-indole-3-carbaldehyde (WO 00/12510) (1.08 g, 6.0 mmol), potassium carbonate (4.15 g, 30.0 mmol) and Boc2O (3.27 g, 15.0 mmol) in THF (25 ml) was stirred for 19 h and then evaporated in vacuo. The residue was partitioned between water (25 ml) and chloroform (3×25 ml) and the organic phase was dried over MgSO4, evaporated and purified by flash chromatography using heptane:ethyl acetate 3:1 giving the title compound (1.65 g, 98%) as a solid.

reactant | 5-chloro-1H-indole-3-carbaldehyde | 6.0 mmol, 1.08 g | ClC=1C=C2C(=CNC2=CC1)C=O | C9H6ClNO
reactant | potassium carbonate | 30.0 mmol, 4.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | Boc2O | 15.0 mmol, 3.27 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | tert-butyl 5-chloro-3-formyl-1H-indole-1-carboxylate | ClC=1C=C2C(=CN(C2=CC1)C(=O)OC(C)(C)C)C=O | C14H14ClNO3
